US06329381B1
6-Amino-9-benzyl-2-ethoxypurine
6-Amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) and sodium ethylate (262 mg, 3.85 mmol) were dissolved in ethanol (20 ml) and then the solution was refluxed on heating under stirring for 20 hours. The reaction mixture was evaporated in vacuo to dryness. To the residue was added water and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate and evaporated in vacuo to dryness. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (151 mg, yield 73%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | sodium ethylate | 3.85 mmol, 262 mg | CC[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-Amino-9-benzyl-2-ethoxypurine | 151 mg, yield 73% | NC1=C2N=CN(C2=NC(=N1)OCC)CC1=CC=CC=C1 | C14H15N5O
